* C:\users\raghuttam\Documents\LTspiceXVII\basic-electronic-circuits\Boost_converter.asc
D1 N001 N002 1N914
L1 N003 N001 0.5m
C1 N002 0 0.1µ
R1 N002 0 1k
V1 N003 0 12
V2 N004 0 PULSE(0 12 0 1n 1n 3u 4u)
M1 N001 N004 0 0 AO6407
.model D D
.lib C:\users\raghuttam\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\raghuttam\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 1ms
* Buck Converter
.backanno
.end
