* C:\users\raghuttam\Documents\LTspiceXVII\basic-electronic-circuits\Instrumentation_Amplifier.asc
XU1 N005 N001 +15V -15V N002 LT1001
XU2 N009 N007 +15V -15V N008 LT1001
XU3 N006 N003 +15V -15V N004 LT1001
R1 N002 N001 3.5k
Rg N001 N007 {R}
R3 N007 N008 3.5k
R4 N003 N002 1k
R5 N006 N008 1k
R6 0 N006 10k
R7 N004 N003 10k
V1 +15V 0 15
V2 -15V 0 -15
V3 N005 0 0.1V
V4 N009 0 0.2V
.tran 1
.step param R 100 1100 200
.lib LTC.lib
.backanno
.end
