* C:\users\raghuttam\My Documents\LTspiceXVII\Basic_electronics_circuits\npn_IV.asc
V1 N002 0 5
V2 N001 0 5
R1 N003 N002 10k
R2 Vo N001 1k
Q1 Vo N003 0 0 NPN
.model NPN NPN
.model PNP PNP
.lib C:\users\raghuttam\My Documents\LTspiceXVII\lib\cmp\standard.bjt
.dc V1 0 5 0.1
.backanno
.end
